US07541374B2
0.54 g of 3-{[dichlorofluoromethyl]thio}-1H-indole-1-ylmethanol was dissolved to 10 ml of chloroform. 0.3 ml of thionyl chloride was added to the solution, and refluxed for 4 hours. The reaction mixture was concentrated under reduced pressure to obtain 0.61 g of 1-(chloromethyl)-3-{[dichlorofluoromethyl]thio}-1H-indole.

reactant | 3-{[dichlorofluoromethyl]thio}-1H-indole-1-ylmethanol | 0.54 g | ClC(SC1=CN(C2=CC=CC=C12)CO)(F)Cl | C10H8Cl2FNOS
reactant | thionyl chloride | 0.3 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(chloromethyl)-3-{[dichlorofluoromethyl]thio}-1H-indole | 0.61 g | ClCN1C=C(C2=CC=CC=C12)SC(F)(Cl)Cl | C10H7Cl3FNS
